US06630477B1
(d) (1R,4S)-4-[(5-Amino-6-chloro-4-pyrimidinyl)amino]-2-cyclopentene-1-methanol
A solution of (+)-(1S,4R)-4-amino-2-cyclopentene-1-methanol hydrochloride (from deblocking of 10.66 g, 50.0 mmoles of (+)-(1S,4R)-tert-butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate as described in part c of this example), 5-amino-4,6-dichloropyrimidine (Aldrich, 16.40 g, 0.100 mole), and triethylamine (15.2 g, 0.150 mole) in 1-butanol (25 mL) was refluxed under nitrogen for 18 hours. The solution was cooled and 1 N sodium hydroxide (100 mL) added. Volatiles were evaporated under reduced pressure and the residual solid was chromatographed on silica gel. Title compound eluted with 5% methanol-chloroform as a pale yellow glass (10.8 g). Crystallization of such a sample from ethyl acetate gave title compound as white needles, m.p. 151-154° C.; 1H-NMR (DMSO-d6) δ: 7.75 (s, 1H), 6.76 (d, J=6.8 Hz, 1H), 5.93 and 5.82 (two m, 2H), 5.11 (m, 3H), 4.66 (t, J=5.3 Hz, 1H), 3.40 (br t, J=6.1 Hz, 2H), 2.75 (m, 1H), 2.20 (m, 1H), 1.38 (m, 1H).

reactant | (+)-(1S,4R)-4-amino-2-cyclopentene-1-methanol hydrochloride | Cl.N[C@H]1C=C[C@H](C1)CO
reactant | (+)-(1S,4R)-tert-butyl N-[4-(hydroxymethyl)-2-cyclopenten-1-yl]carbamate | 50.0 mmoles, 10.66 g | OC[C@H]1C=C[C@H](C1)NC(OC(C)(C)C)=O | C11H19NO3
reactant | 5-amino-4,6-dichloropyrimidine | 0.100 mole, 16.40 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | triethylamine | 0.150 mole, 15.2 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 1 N, 100 mL | [OH-].[Na+]
solvent | 1-butanol | 25 mL | C(CCC)O | C4H10O
product | (1R,4S)-4-[(5-Amino-6-chloro-4-pyrimidinyl)amino]-2-cyclopentene-1-methanol | NC=1C(=NC=NC1Cl)N[C@@H]1C=C[C@@H](C1)CO | C10H13ClN4O
